US08455522B2
Step 1: Synthesis of 2-(5-Bromo-pyridin-3-yl)-ethanol
A solution of Diborane-THF complex (1.0 M in THF, 7.5 mL, 7.5 mmol) was added dropwise to a solution of 5-bromo-3-pyridinylacetic acid (1080 mg, 5 mmol) in dry THF at 0° C. The resulting mixture was allowed to warm to room temperature. After 15 h, the reaction mixture was cooled to 0° C. and water (10 mL) was added dropwise. The reaction mixture was diluted with ethyl acetate (100 mL). The organic layer was separated, washed with brine, dried over Na2SO4. After filtration and concentration, the residue was purified by flash column and afforded of the title compound as colorless solid (241 mg). 1HNMR (CDCl3, 400.342 MHz) δ 2.89 (t, J=6 Hz, 2H), 3.92 (t, J=6 Hz, 3H), 7.99 (s, 1H), 8.46 (s, 1H), 8.60 (s, 1H).

reactant | Diborane THF | 7.5 mmol, 1.0 M, 7.5 mL | B#B.C1CCOC1
reactant | 5-bromo-3-pyridinylacetic acid | 5 mmol, 1080 mg | BrC=1C=C(C=NC1)CC(=O)O | C7H6BrNO2
reactant | water | 10 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-Bromo-pyridin-3-yl)-ethanol | 241 mg | BrC=1C=C(C=NC1)CCO | C7H8BrNO
